US08293768B2
Synthesis of 2-(3-(4-fluorobenzyl)-2-oxotetrahydropyrimidin-1(2H)-yl)-4-methylthiazole-5-carboxylic acid
Following the procedure as described in Example 14, making variations as required to replace ethyl 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylate with ethyl 2-(3-(4-fluorobenzyl)-2-oxotetrahydropyrimidin-1(2H)-yl)-4-methylthiazole-5-carboxylate, the title compound was obtained as a colorless solid in 96% yield: MS (ES+) m/z 350.1 (M+1).

reactant | ethyl 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylate | CC1=C(SC(=C1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C(=O)OCC | C19H19F3N2O3S
reactant | ethyl 2-(3-(4-fluorobenzyl)-2-oxotetrahydropyrimidin-1(2H)-yl)-4-methylthiazole-5-carboxylate | FC1=CC=C(CN2C(N(CCC2)C=2SC(=C(N2)C)C(=O)OCC)=O)C=C1 | C18H20FN3O3S
product | 2-(3-(4-fluorobenzyl)-2-oxotetrahydropyrimidin-1(2H)-yl)-4-methylthiazole-5-carboxylic acid | 96% yield | FC1=CC=C(CN2C(N(CCC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C16H16FN3O3S
